US04012524
Step C: 2-Methyl-2-phenyl-6,7-dichloroindan-1,5-diol (α and β isomers)
To a stirred solution of 2-methyl-2-phenyl-5-hydroxy-6,7-dichloro-1-indanone (14.3 g., 0.047 mole) in tetrahydrofuran (150 ml.) under nitrogen is added dropwise over a 10 minute period 70% sodium bis(2-methoxyethoxy) aluminum hydride in benzene (17 ml.) in tetrahydrofuran (50 ml.) while maintaining the reaction temperature at 10°-15° C. The reaction mixture is stirred at 25° C. for 26 hours, cooled to 10° C, slowly treated with 10% hydrochloric acid until frothing ceases, then with 20% hydrochloric acid until acidic. The tetrahydrofuran is decanted from a pasty residue, evaporated to dryness and the residue taken up in benzene (300 ml.). The insoluble, homogeneous product which separates at this stage is primarily 2-methyl-2-phenyl-6,7-dichloroindane-1,5-diol (α-isomer), 800 mg., m.p. 177°-181° C. and is used without further purification. The benzene solution is dried over magnesium sulfate and evaporated to dryness to give 8.57 g. of a mixture of isomers. Three crystallizations from benzene gives 3.0 g. of 2-methyl-2-phenyl-6,7-dichloroindan-1,5-diol (β-isomer), m.p. 163°-165° C. and is used in Example 18 below without further purification.

reactant | 2-methyl-2-phenyl-5-hydroxy-6,7-dichloro-1-indanone | 0.047 mole, 14.3 g | CC1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C1=CC=CC=C1 | C16H12Cl2O2
reactant | sodium bis(2-methoxyethoxy) aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | benzene | 17 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-Methyl-2-phenyl-6,7-dichloroindan-1,5-diol | CC1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)O)C1=CC=CC=C1 | C16H14Cl2O2
